US08633183B2
A-75) 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-benzoic acid
The title compound is synthesized according to general procedure GP8 starting from 2.25 g (6.28 mmol) 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-benzoic acid methyl ester using 1.32 g (31.4 mmoL) LiOH in 5 mL water and 50 mL THF. The reaction mixture is stirred over night at 50° C. The solvent is removed under reduced pressure and the residue is taken up in water. Aqueous 1 M HCl is added until pH 5 is reached. The precipitated product is filtered off and taken up in water. After freeze drying 2.3 g of crude product are obtained which is used for the next step without further purification.

reactant | 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-benzoic acid methyl ester | 6.28 mmol, 2.25 g | COC(C1=CC=C(C=C1)C1=NC=NC(=C1C#CC=1C=NC(=CC1)N)CC)=O | C21H18N4O2
reactant | LiOH | [Li+].[OH-]
solvent | water | 5 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-benzoic acid | NC1=CC=C(C=N1)C#CC=1C(=NC=NC1CC)C1=CC=C(C(=O)O)C=C1 | C20H16N4O2
